US08097610B2
Preparation of 1-(5-bromothiazole-2-yl)-3,5-dimethyl piperazine
A mixture of 2,5-dibromothiazole (29.5 g), 2,6-dimethyl piperazine (13.8 g), potassium carbonate (20.1 g) and dimethylformamide (150 mL) was stirred at 60° C. for 6 hours. To the reaction solution was added water and extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over sodium sulphate. The solvent was evaporated under reduced pressure to give the title compound (21.5 g). Yield: 64%.

reactant | 2,5-dibromothiazole | 29.5 g | BrC=1SC(=CN1)Br | C3HBr2NS
reactant | 2,6-dimethyl piperazine | 13.8 g | CC1NC(CNC1)C | C6H14N2
reactant | potassium carbonate | 20.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(5-bromothiazole-2-yl)-3,5-dimethyl piperazine | 21.5 g, Yield: 64% | BrC1=CN=C(S1)N1CC(NC(C1)C)C | C9H14BrN3S
